### PR TITLE
feat: equivalence on hash maps

### PR DESCRIPTION
**Pull request by Rob23oba**
This PR adds an equivalence relation to the hash map with several lemmas for it.

### CODE REVIEW

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean [hunk 1]
```diff
@@ -2537,6 +2539,159 @@ end Const
...
+  simp_to_model [Equiv, Const.insertManyIfNewUnit]
+    using List.insertListIfNewUnit_perm_of_perm_first h.1
+
+theorem alter_equiv_congr (h₁ : m₁.1.WF) (h₂ : m₂.1.WF) (h : m₁.1 ≈ m₂.1)
+    {k : α} (f : Option β → Option β) : (alter m₁ k f).1 ≈ (alter m₂ k f).1 := by
+  simp_to_model [Equiv, Const.alter] using List.Const.alterKey_of_perm _ h.1
+
+theorem modify_equiv_congr (h₁ : m₁.1.WF) (h₂ : m₂.1.WF) (h : m₁.1 ≈ m₂.1)
+    {k : α} (f : β → β) : (modify m₁ k f).1 ≈ (modify m₂ k f).1 := by
+  simp_to_model [Equiv, Const.modify] using List.Const.modifyKey_of_perm _ h.1
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Internal/RawLemmas.lean:2685]: How about adding lemmas for `filterMap`, `filter` and `map`? I think the relevant theory should be there.

File: src/Std/Data/DHashMap/Raw.lean [hunk 2]
```diff
@@ -57,6 +58,22 @@ instance : EmptyCollection (Raw α β) where
 instance : Inhabited (Raw α β) where
   default := ∅
 
+/--
+Two hash maps are equivalent in the sense of `Equiv` iff
+all the keys and values are equal.
+-/
+structure Equiv [BEq α] [Hashable α] (m₁ m₂ : Raw α β) : Prop where
```
[the remark this answers is not in the document]
Comment (Rob23oba) [reply src/Std/Data/DHashMap/Raw.lean:65]: Oh, you're right, I forgot that `Raw` doesn't need instances.

File: src/Std/Data/DHashMap/Raw.lean [hunk 3]
```diff
@@ -57,6 +58,22 @@ instance : EmptyCollection (Raw α β) where
...
+  /-- Internal implementation detail of the hash map -/
+  perm_toListModel : (toListModel m₁.2).Perm (toListModel m₂.2)
+
+instance [BEq α] [Hashable α] : Setoid (Raw α β) where
```
[the remark this answers is not in the document]
Comment (Rob23oba) [reply src/Std/Data/DHashMap/Raw.lean:69]: From my limited testing - dot notation works even on the setoid if you have a corresponding lemma `Equiv m1 m2 -> ...` - but they don't show up as suggestions. So I think we definitely want api on `Equiv` for dot notation, I'm not sure though whether we want to use the setoid or not - perhaps I'll just use `Equiv` with scoped notation in `RawLemmas` for now.

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean [hunk 4]
```diff
@@ -2537,6 +2539,159 @@ end Const
...
+    (h₁ : m₁.1.WF) (h₂ : m₂.1.WF) (h : m₁.1 ≈ m₂.1) {k : α} :
+    m₁.getKey! k = m₂.getKey! k := by
+  simp_to_model [getKey!] using List.getKey!_of_perm _ h.1
+
+theorem getKeyD_eq_of_equiv [EquivBEq α] [LawfulHashable α]
+    (h₁ : m₁.1.WF) (h₂ : m₂.1.WF) (h : m₁.1 ≈ m₂.1) {k fallback : α} :
+    m₁.getKeyD k fallback = m₂.getKeyD k fallback := by
+  simp_to_model [getKeyD] using List.getKeyD_of_perm _ h.1
+
+theorem toList_perm_toList_of_equiv [EquivBEq α] [LawfulHashable α]
```
[the remark this answers is not in the document]
Comment (Rob23oba) [reply src/Std/Data/DHashMap/Internal/RawLemmas.lean]: Done.

**Review by TwoFX — COMMENTED** [review]
Looks good modulo the one comment. Could you add the material for `DHashMap/Lemmas.lean` and `DHashMap/RawLemmas.lean` next so that we can discuss the user-facing naming?

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean [hunk 5]
```diff
@@ -2537,6 +2546,196 @@ end Const
...
+theorem alter_equiv_congr (h₁ : m₁.1.WF) (h₂ : m₂.1.WF) (h : m₁.1 ~m m₂.1)
+    {k : α} (f : Option β → Option β) : (alter m₁ k f).1 ~m (alter m₂ k f).1 := by
+  simp_to_model [Equiv, Const.alter] using List.Const.alterKey_of_perm _ h.1
+
+theorem modify_equiv_congr (h₁ : m₁.1.WF) (h₂ : m₂.1.WF) (h : m₁.1 ~m m₂.1)
+    {k : α} (f : β → β) : (modify m₁ k f).1 ~m (modify m₂ k f).1 := by
+  simp_to_model [Equiv, Const.modify] using List.Const.modifyKey_of_perm _ h.1
+
+theorem equiv_of_forall_getKey?_eq_and_get?_eq (h₁ : m₁.1.WF) (h₂ : m₂.1.WF) :
+    (∀ k, m₁.getKey? k = m₂.getKey? k ∧ get? m₁ k = get? m₂ k) → m₁.1 ~m m₂.1 := by
```
[the remark this answers is not in the document]
Comment (Rob23oba) [reply src/Std/Data/DHashMap/Internal/RawLemmas.lean:2732]: The variant with membership and getKey/get would need an additional hypothesis that the size is equal because with that hypothesis, the second map could have more elements.

[the remark this answers is not in the document]
Comment (Rob23oba) [reply src/Std/Data/DHashMap/Internal/RawLemmas.lean:2732]: I guess similar to `Array.ext`

File: src/Std/Data/DHashMap/Lemmas.lean [hunk 6]
```diff
@@ -22,7 +22,7 @@ set_option autoImplicit false
 
 universe u v w
 
-variable {α : Type u} {β : α → Type v} {_ : BEq α} {_ : Hashable α}
+variable {α : Type u} {β : α → Type v} {γ : α → Type v} {_ : BEq α} {_ : Hashable α}
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Lemmas.lean:25]:
```suggestion
variable {α : Type u} {β : α → Type v} {γ : α → Type w} {_ : BEq α} {_ : Hashable α}
```

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean [hunk 7]
```diff
@@ -2537,6 +2546,196 @@ end Const
...
+  · intro h
+    have := h.map (fun x => (⟨x, ()⟩ : (_ : α) × Unit))
+    simpa only [List.map_map, Function.comp_def, List.map_id'] using this
+
+end Const
+
+end Raw
+
+variable (m₁ m₂ : Raw₀ α β)
+
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Internal/RawLemmas.lean:2606]: I think it would be good to have a lemma that states that a map `isEmpty` if and only if it is equivalent to the empty map. This would also take care of the fact that `empty c` is equivalent to `empty d` for all `c` and `d`.

File: src/Std/Data/DHashMap/Raw.lean [hunk 8]
```diff
@@ -57,6 +57,14 @@ instance : EmptyCollection (Raw α β) where
...
   default := ∅
 
+/--
+Two hash maps are equivalent in the sense of `Equiv` iff
+all the keys and values are equal.
+-/
+structure Equiv (m₁ m₂ : Raw α β) : Prop where
+  /-- Internal implementation detail of the hash map -/
+  perm_toListModel : (toListModel m₁.2).Perm (toListModel m₂.2)
+
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Raw.lean:67]: I think you should introduce a user-facing scoped notation for `Raw.Equiv`, and similarly introduce a user-facing scoped notation for `DHashMap.Equiv`, and use them in `DHashMap/RawLemmas.lean` and `Lemmas.lean`, respectively. The notations can all be ` ~m`, we can expect users to never have more than of the namespaces open at the same time.

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean (hunk 5 above)
[the remark this answers is not in the document]
Comment (TwoFX) [reply src/Std/Data/DHashMap/Internal/RawLemmas.lean]: Yes, good point. I guess that suggests that there should be a lemma `DHashMap.size_eq_if_mem_iff_mem`.

File: src/Std/Data/DHashMap/Raw.lean (hunk 8 above)
Comment (Rob23oba) [reply src/Std/Data/DHashMap/Raw.lean:67]: The problem is that we already have scoped notation from `Std.DHashMap.Internal` as `Raw.Equiv` and we open that in `Lemmas.lean` so putting another one in `Lemmas.lean` would make them clash. I guess we can use notation only in user-facing files and then use `Equiv` in `Internal/RawLemmas` if we want to make that work.

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean (hunk 7 above)
Comment (Rob23oba) [reply src/Std/Data/DHashMap/Internal/RawLemmas.lean:2606]: Yeah, you're right, that's another thing I also thought of adding.

File: src/Std/Data/DHashMap/Lemmas.lean (hunk 6 above)
Comment (Rob23oba) [reply src/Std/Data/DHashMap/Lemmas.lean:25]: Yeah, small oversight, you're right. I didn't end up using these though, they were meant for `map` and `filterMap` and we don't have these operations imported in this file, they would be in `AdditionalOperations.lean`. Should I import them then and use these?

File: src/Std/Data/DHashMap/Raw.lean (hunk 8 above)
Comment (TwoFX) [reply src/Std/Data/DHashMap/Raw.lean:67]: Yes, that sounds good.

Comment (Rob23oba) [reply src/Std/Data/DHashMap/Raw.lean:69]: I ended up defining the scoped notation in `Std.Data.DHashMap.Raw` and just `open scoped Std.DHashMap.Raw` in `Internal/RawLemmas`

**Review by TwoFX — APPROVED** [review]
This is great, thanks!

**Comment by TwoFX** [comment]
The PR is currently a draft. Is there anything you wanted to add to this PR?

**Comment by Rob23oba** [comment]
No, I just forgot to un-draft lol

**Comment by Rob23oba** [comment]
changelog-library
